US05861414
(ii) (2,4-Dibromo-phenyl)-piperidin-4-yl-methanone hydrochloride
A stirred mixture of 1-[4-(2,4-dibromo-benzoyl)-piperidin-1-yl]-ethanone (11.00 g, 28.3 mmol) and aqueous 5M hydrochloric acid (60 ml) was heated under reflux under nitrogen for 7 h. The mixture was evaporated in vacuo to give the title compound as a white solid (10.8 g).

reactant | 1-[4-(2,4-dibromo-benzoyl)-piperidin-1-yl]-ethanone | 28.3 mmol, 11.00 g | BrC1=C(C(=O)C2CCN(CC2)C(C)=O)C=CC(=C1)Br | C14H15Br2NO2
reactant | hydrochloric acid | 5M, 60 ml | Cl | ClH
product | (2,4-Dibromo-phenyl)-piperidin-4-yl-methanone hydrochloride | 10.8 g | Cl.BrC1=C(C=CC(=C1)Br)C(=O)C1CCNCC1 | InChI=1S/C12H13Br2NO.ClH/c13-9-1-2-10(11(14)7-9)12(16)8-3-5-15-6-4-8;/h1-2,7-8,15H,3-6H2;1H
